US08871760B2
A solution of 1-(4-methyl-3-nitro-phenyl)-ethanone and (1,1-dimethoxy-ethyl)-dimethyl-amine in DMF was heated at 90° C. for 3 hours, then cooled to room temperature. Solvent was removed under reduced pressure, and the residue was dissolved in a mixture of EtOH (25 ml) and THF (5 ml). The mixture was cooled to 0° C., and hydrazine hydrate (5 ml) at 0° C. was added. The mixture was stirred for 16 hours at room temperature, then concentrated under reduced pressure. The residue was purified by “flash chromatography” (0 to 30% EtOAc in hexanes) to give 8.5 g of 5-methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole as a yellowish solid, which was recrystallyzed from EtOAc to give 8.2 g of yellow powder.

reactant | 1-(4-methyl-3-nitro-phenyl)-ethanone | CC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C9H9NO3
reactant | (1,1-dimethoxy-ethyl)-dimethyl-amine | COC(C)(OC)N(C)C | C6H15NO2
reactant | DMF | CN(C)C=O | C3H7NO
product | 5-methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole | 8.5 g | CC1=CC(=NN1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H11N3O2
